US08404676B2
Step 2: 3-methyl-4-(2-methylpyridin-3-yl)benzoic acid
A mixture of 3-bromo-2-methylpyridine (0.13 mL; 1.16 mmol; 1 eq.), methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (353 mg; 1.28 mmol; 1.1 eq.), potassium carbonate (803 mg; 5.81 mmol; 5 eq.) and tetrakis(triphenylphosphine)palladium(0) (134 mg; 0.12 mmol; 0.1 eq.) in toluene (1 mL) and water (1 mL) was refluxed for 2 hours. The reaction mixture was cooled down to room temperature and filtered through a pad of Celite® which was further washed with toluene (20 mL). The filtrate was concentrated in vacuo and the residue taken up in Ethyl acetate (10 mL). The organic layer was washed with a sat. aq. NaHCO3, water and brine, dried over MgSO4 and concentrated in vacuo. The residue (250 mg; 1.04 mmol; 1 eq.) was taken up in EtOH (7.5 mL) and sodium hydroxide (5M; 0.62 mL; 3.11 mmol; 3 eq.). The reaction mixture was stirred at 60° C. for 2 hours then concentrated in vacuo. The residue was taken up in water (50 mL) and the aqueous phase was washed with Ethyl acetate (2×20 mL) then acidified pH 2 with conc. HCl. The solution was concentrated in vacuo to ca. 15 mL, the precipitate filtered off and washed with ACN to afford the title compound (190 mg, 72%) as a beige solid.

reactant | 3-bromo-2-methylpyridine | 1.16 mmol, 0.13 mL, 1 eq. | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.28 mmol, 353 mg, 1.1 eq. | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | potassium carbonate | 5.81 mmol, 803 mg, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 3.11 mmol, 5M, 0.62 mL, 3 eq. | [OH-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.12 mmol, 134 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl-4-(2-methylpyridin-3-yl)benzoic acid | 190 mg, 72% | CC=1C=C(C(=O)O)C=CC1C=1C(=NC=CC1)C | C14H13NO2
